US07081532B2
25.8 g (300 mmol) of piperazine are suspended in a mixture of 25 ml of ethanol and 25 ml of water. After almost a clear solution has formed, 12.9 g (30 mmol) of 4-chloromethyl-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide are added step by step. The yellow solution is boiled under reflux for 14 hours, cooled to room, temperature and filtered over Celite. 100 ml of water is added to the solution, the ethanol is evaporated under vacuum and 30 ml of 1N NaOH is added, leading to crystallization of the product. Drying at 50 mbar and 60° C. yields N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-4-piperazin-1-ylmethyl-benzamide; Rf=0.15 (methylene chloride:ethyl acetate:methanol:conc. aqueous ammonium hydroxide solution=60:10:30:2); tR (HPLC)2) 14.6 min.

reactant | piperazine | 300 mmol, 25.8 g | N1CCNCC1 | C4H10N2
reactant | 4-chloromethyl-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide | 30 mmol, 12.9 g | ClCC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C24H20ClN5O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-4-piperazin-1-ylmethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCNCC1)=O)NC1=NC=CC(=N1)C=1C=NC=CC1 | C28H29N7O
